US07214507B2
Before experiments as described in this example were started, it was tested which organic solvent could be best used to dissolve the substrate. Stock solutions of 10 mM γ-gurjunene were prepared in hexane, pentane, iso-propanol ethanol and DMSO, and 5 μL of these solutions was added to the incubation-mixture. On the basis of the results of Table III ethanol was chosen as solvent for the substrates in all experiments, instead of the commonly used pentane (e.g. Karp et al., 1990).

reactant | pentane | CCCCC | C5H12
reactant | iso-propanol ethanol | C(C)O.C(C)(C)O
reactant | DMSO | CS(=O)C | C2H6OS
reactant | ethanol | C(C)O | C2H6O
reactant | hexane | CCCCCC | C6H14
product | γ-gurjunene | 10 mM | CC1CCC(C=C2C1CCC2C)C(=C)C | C15H24
